US04381304
A stirred mixture of 5-(acetylamino)-2-hydroxy-2,4,6-cycloheptatrien-1-one (148 g), described by T. Nozoe et al., Proc. Japan Acad., 27, 188 (1951), anhydrous potassium carbonate (300 g), dimethyl sulfate (300 g) and 2-butanone (3 l) was heated at reflux for 20 hr. The hot mixture was filtered and the filtrate was set aside. The collected solid was mixed with fresh quantities of potassium carbonate (300 g), dimethyl sulfate (300 g) and 2-butanone (3 l). The resulting mixture was heated at reflux for 20 hr and filtered while still hot. The combined filtrates were evaporated to dryness. The residue was subjected to chromatography on silica gel using chloroform:methanol (19:1) as the eluant. The pure fractions were pooled giving 2-methoxy-5-(N-methylacetylamino)-2,4,6-cycloheptatrien-1-one (56 g); mp 116°-118° C.; nmr (DMSO-d6) δ1.45(s, 3H), 3.2 (s, 3H), 3.95 (s, 3H), 6.5-7.2 (m, 4H), uv λ max (MeOH) 324 nm (ε10,835), 230 (22,940).

reactant | 5-(acetylamino)-2-hydroxy-2,4,6-cycloheptatrien-1-one | 148 g | C(C)(=O)NC1=CC=C(C(C=C1)=O)O | C9H9NO3
reactant | potassium carbonate | 300 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 300 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 2-butanone | 3 l | CC(CC)=O | C4H8O
product | 2-methoxy-5-(N-methylacetylamino)-2,4,6-cycloheptatrien-1-one | 56 g | COC=1C(C=CC(=CC1)NC(CC)=O)=O | C11H13NO3
